US08529874B2
(3a) 5-Methyl-6-oxoheptane-1-sulfonic acid
Ethyl 2-methylacetoacetate (50 g) in DMF (25 ml) was added to a suspension of sodium hydride (12.0 g of 60% NaH in mineral oil) in DMF (100 ml), dropwise with ice-bath cooling over 1 hour, (internal temperature 0-4° C.). This mixture was allowed to warm to ambient temperature for 45 mins with stirring before re-cooling. A solution of 1,4-butanesultone (45 g) in DMF (25 ml) was then added dropwise over 15 minutes. The final mixture was heated at 60° C. for 18 hours. The solvent was removed by rotary evaporation and the residue partitioned between water and diethyl ether. The aqueous layer was collected, washed with fresh diethyl ether and rotary evaporated to yield a sticky foam. This intermediate was dissolved in water (100 ml) and sodium hydroxide (17.8 g) added over 15 minutes with stirring. The mixture was heated at 90° C. for 18 hours. The cooled reaction mixture was adjusted to ˜pH2 by the addition of concentrated hydrochloric acid (˜40 ml). The solution was rotary evaporated and dried under vacuum. The yellow solid was washed with ethanol containing 2% hydrochloric acid (3×150 ml). The ethanolic solution was filtered, rotary evaporated and dried under vacuum to yield a yellow solid. Yield 70 g.

reactant | Ethyl 2-methylacetoacetate | 50 g | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | sodium hydride | 12.0 g | [H-].[Na+]
reactant | 1,4-butanesultone | 45 g | C1CCS(=O)(=O)OC1 | C4H8O3S
reactant | sodium hydroxide | 17.8 g | [OH-].[Na+]
reactant | hydrochloric acid | ˜40 ml | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 5-Methyl-6-oxoheptane-1-sulfonic acid | CC(CCCCS(=O)(=O)O)C(C)=O | C8H16O4S
